US06090825
A. 2-Amino-4'-chloroacetophenone hydrochloride
To a stirred solution of 2-bromo-4'-chloroacetophenone (10.34 g, 43.40 mmol) and 18-crown-6 (1.16 g, 4.34 mmol) in acetonitrile (150 mL) at room temperature (RT) is added sodium diformylamide (12.51 g, 131.6 mmol). After 3 h at RT and 2 h at 40° C., the suspension is diluted with water (100 mL) and extracted with ethyl acetate (4×150 mL). The combined organics are washed with brine, dried (magnesium sulfate), and concentrated to afford waxy yellow solids. These are taken up in absolute ethanol (150 mL), the stirred solution is treated with concentrated hydrochloric acid (15.00 mL, 174 mmol), and the mixture is heated to reflux for 1.5 h. The suspension is cooled to RT, filtered, and the solids are washed with ethyl acetate. Drying in vacuo at RT afforded the title compound as white solids.

reactant | 2-bromo-4'-chloroacetophenone | 43.40 mmol, 10.34 g | BrCC(=O)C1=CC=C(C=C1)Cl | C8H6BrClO
reactant | 18-crown-6 | 4.34 mmol, 1.16 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sodium diformylamide | 131.6 mmol, 12.51 g | C(=O)[N-]C=O.[Na+]
reactant | hydrochloric acid | 174 mmol, 15.00 mL | Cl | ClH
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | 2-Amino-4'-chloroacetophenone hydrochloride | Cl.NCC(=O)C1=CC=C(C=C1)Cl | InChI=1S/C8H8ClNO.ClH/c9-7-3-1-6(2-4-7)8(11)5-10;/h1-4H,5,10H2;1H
